US09126931B2
5,5-Dimethyl-3-(4-morpholin-4-yl-piperidin-1-yl)-11-oxo-6,11-dihydro-5H-pyrido[4,3-b]carbazole-8-carbonitrile
5,5-Dimethyl-3-(4-morpholin-4-yl-piperidin-1-yl)-11-oxo-6,11-dihydro-5H-pyrido[4,3-b]carbazole-8-carboxylic acid amide (54 mg) was dissolved in DMF (1 ml), added with thionyl chloride (25 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water. The precipitated matters were collected by filtration to obtain the title compound (25 mg, 49%).

reactant | 5,5-Dimethyl-3-(4-morpholin-4-yl-piperidin-1-yl)-11-oxo-6,11-dihydro-5H-pyrido[4,3-b]carbazole-8-carboxylic acid amide | 54 mg | CC1(C2=C(C(C=3C=4C=CC(=CC4NC13)C(=O)N)=O)C=NC(=C2)N2CCC(CC2)N2CCOCC2)C | C27H31N5O3
reactant | thionyl chloride | 25 μL | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5,5-Dimethyl-3-(4-morpholin-4-yl-piperidin-1-yl)-11-oxo-6,11-dihydro-5H-pyrido[4,3-b]carbazole-8-carbonitrile | 25 mg, 49% | CC1(C2=C(C(C=3C=4C=CC(=CC4NC13)C#N)=O)C=NC(=C2)N2CCC(CC2)N2CCOCC2)C | C27H29N5O2
